*
* Test IRLB8314 characteristics
*
.include irlb8314pbf.spi

XM 1 2 0 irlb8314pbf        ; D G S
VDS 1 0 10V
VGS 2 0 2.8V

.dc   VDS  0.001  30  0.1     VGS  2.8  6  0.2
* .dc VGS  2.5  6  0.1 VDS  0.1  20  0.1

* .dc VGS  2.5  6  0.1
* .dc VDS  0.001  20  0.1
.probe alli

.control
set color0=white
run

plot  -i(VDS)
plot loglog -i(VDS)
.endc